US06218538B1
3-Phenylpropyl 4-(3,4-dichlorophenyl)-6-[(2-(1-piperidinyl)ethoxy)methyl]-2-(4-pyridyl)-1,4-dihydropyrimidine-5-carboxylate
A mixture of 3-phenylpropyl 4-(2-(1-piperidinyl)ethoxy)acetoacetate (1.50 g, 4.32 mmol), 3,4-dichlorobenzaldehyde (0.907 g, 5.18 mmol), 4-amidinopyridine hydrochloride (0.816 g, 5.18 mmol) and sodium acetate (0.425 g, 5.18 mmol) was stirred in N,N-dimethylformamide (10 mL) for 14 days at room temperature and then heated to 60° C. for 6 days. The DMF was removed in vacuo and ethyl acetate was added to the residue. The precipitate was removed by filtration and the filtrate was washed with water, sodium hydrogen carbonate solution and brine, dried and evaporated to yield an oil. The oil was further purified by flash chromatography to give the title compound (81.7 mg) as an oil.

reactant | 3-phenylpropyl 4-(2-(1-piperidinyl)ethoxy)acetoacetate | 4.32 mmol, 1.50 g | N1(CCCCC1)CCOCC(CC(=O)OCCCC1=CC=CC=C1)=O | C20H29NO4
reactant | 3,4-dichlorobenzaldehyde | 5.18 mmol, 0.907 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 4-amidinopyridine hydrochloride | 5.18 mmol, 0.816 g | Cl.C(N)(=N)C1=CC=NC=C1
reactant | sodium acetate | 5.18 mmol, 0.425 g | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-Phenylpropyl 4-(3,4-dichlorophenyl)-6-[(2-(1-piperidinyl)ethoxy)methyl]-2-(4-pyridyl)-1,4-dihydropyrimidine-5-carboxylate | 81.7 mg | ClC=1C=C(C=CC1Cl)C1N=C(NC(=C1C(=O)OCCCC1=CC=CC=C1)COCCN1CCCCC1)C1=CC=NC=C1 | C33H36Cl2N4O3
